US08859494B2
Analogously to example 1, 2-chloro-4-(1-hydroxymethylcyclopropylmethoxy)benzonitrile and methyl 3-(4-hydroxyphenyl)hex-4-ynoate were used to obtain 3-{4-[1-(3-chloro-4-cyanophenoxymethyl)cyclopropylmethoxy]phenyl}hex-4-ynoic acid.

reactant | 2-chloro-4-(1-hydroxymethylcyclopropylmethoxy)benzonitrile | ClC1=C(C#N)C=CC(=C1)OCC1(CC1)CO | C12H12ClNO2
reactant | methyl 3-(4-hydroxyphenyl)hex-4-ynoate | OC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C13H14O3
product | 3-{4-[1-(3-chloro-4-cyanophenoxymethyl)cyclopropylmethoxy]phenyl}hex-4-ynoic acid | ClC=1C=C(OCC2(CC2)COC2=CC=C(C=C2)C(CC(=O)O)C#CC)C=CC1C#N | C24H22ClNO4
